US05236918
3-Chloro-6-(3-methoxy-4-n-propoxyphenyl)pyridazine
18.0 g 6-(3-methoxy-4-n-propoxyphenyl)-3[2H]pyridazinone are suspended in 63.6 g phosphorus oxytrichloride. The mixture is stirred at 100° C. until a clear solution has formed and the evolution of HCl stops. The solution is cooled to about 50° C. and poured onto 1 kg of ice, while stirring constantly, whereupon a crystalline precipitate forms immediately, this being filtered off with suction and washed free from acid with water, dilute sodium bicarbonate solution and again with water. Drying in vacuo gives 19.1 g (98.8%) of the title compound of m.p. 129° C., and of m.p. 132° C. after crystallization from cyclohexane.

reactant | 6-(3-methoxy-4-n-propoxyphenyl)-3[2H]pyridazinone | 18.0 g | COC=1C=C(C=CC1OCCC)C=1C=CC(NN1)=O | C14H16N2O3
reactant | HCl | Cl | ClH
solvent | phosphorus oxytrichloride | 63.6 g | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-Chloro-6-(3-methoxy-4-n-propoxyphenyl)pyridazine | 19.1 g, 98.8% | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OCCC)OC | C14H15ClN2O2
